US05015473
(iv) 6-Chloro-2-chloromethylpyridine
6-Chloro-2-pyridylmethanol, 0.982 g (6.84 mmole) in 10 ml methylene chloride was treated with 0.814 g thionyl chloride at room temperature for one hour. The mixture was neutralized with saturated sodium bicarbonate solution, extracted with methylene chloride, the extracts dried and solvent evaporated to give 815 mg of product as colorless crystals. 1H-NMR(CDCl3)ppm (delta): 4.7 (s, 2H), 7.1-8.0 (m, 3H).

reactant | 6-Chloro-2-pyridylmethanol | ClC1=CC=CC(=N1)CO | C6H6ClNO
reactant | thionyl chloride | 0.814 g | S(=O)(Cl)Cl | Cl2OS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 6-Chloro-2-chloromethylpyridine | 815 mg | ClC1=CC=CC(=N1)CCl | C6H5Cl2N
